US07723333B2
tert-Butyl [2-(3-cyanophenyl)ethyl]carbamate
tert-Butyl [2-(3-bromophenyl)ethyl]carbamate (0.60 g, 1.99 mmol) was dissolved in dry DMF (18 mL) in a under nitrogen atmosphere. Zinc cyanide (0.47 g, 3.99 mmol) and tetrakis(triphenylphosphine)palladium (0.18 g, 0.16 mmol) was added. The reaction mixture was heated in a microwave reactor at 150° C. for 20 mins. The procedure was repeated two more times with equal amount of starting material and the resulting three mixtures were combined and diluted with EtOAc. The mixture was washed with saturated aqueous NaHCO3 and water, dried with Na2SO4, filtered and evaporated. The crude product was purified using Biotage Horizon HPFC system using Heptane and EtOAc as eluant affording the title compound (0.95 g, 64.3%). 1H NMR (500 MHz, CDCl3): δ 1.39 (s, 9H), 2.82 (t, 2H), 3.34 (q, 2H), 4.75 (bs, 1H), 7.37-7.50 (m, 4H); 13C NMR (125 MHz, CDCl3): δ 28.57, 36.09, 41.63, 79.61, 112.69, 119.05, 129.56, 130.38, 132.57, 133.68, 140.86, 156.06.

reactant | tert-Butyl [2-(3-bromophenyl)ethyl]carbamate | 1.99 mmol, 0.60 g | BrC=1C=C(C=CC1)CCNC(OC(C)(C)C)=O | C13H18BrNO2
reactant | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Zinc cyanide | 3.99 mmol, 0.47 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.16 mmol, 0.18 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl [2-(3-cyanophenyl)ethyl]carbamate | 0.95 g, 64.3% | C(#N)C=1C=C(C=CC1)CCNC(OC(C)(C)C)=O | C14H18N2O2
